US09029374B2
2,3,5-trifluoro-N-methylaniline (197 mg, 1.22 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (150 mg, 0.31 mmol) using an analogous procedure to the one described in Example 3.03 to give N,N-dimethyl-8-(1-(methyl(2,3,5-trifluorophenyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide (12 mg, 8%) as a white solid. Mass Spectrum: M+H+ 490.

reactant | 2,3,5-trifluoro-N-methylaniline | 1.22 mmol, 197 mg | FC1=C(NC)C=C(C=C1F)F | C7H6F3N
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.31 mmol, 150 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | N,N-dimethyl-8-(1-(methyl(2,3,5-trifluorophenyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 12 mg, 8% | CN(C(=O)C=1C=C2C(C=C(OC2=C(C1)C(C)N(C1=C(C(=CC(=C1)F)F)F)C)N1CCOCC1)=O)C | C25H26F3N3O4
